US04510309
E. 2-[(2-Dimethylaminomethyl-4-thiazolyl)methylthio]ethylamine
When 2-dimethylaminomethyl-4-hydroxymethylthiazole [prepared in Step D]is reacted with thionyl chloride and the resultant 2-dimethylaminomethyl-4-chloromethylthiazole is reacted with an equimolar amount of cysteamine hydrochloride and two equivalents of base according to the general procedure of Example 33, Step D, the title compound is thereby produced.

reactant | 2-dimethylaminomethyl-4-hydroxymethylthiazole | CN(C)CC=1SC=C(N1)CO | C7H12N2OS
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 2-dimethylaminomethyl-4-chloromethylthiazole | CN(C)CC=1SC=C(N1)CCl | C7H11ClN2S
reactant | cysteamine hydrochloride | Cl.NCCS
product | 2-[(2-Dimethylaminomethyl-4-thiazolyl)methylthio]ethylamine | CN(C)CC=1SC=C(N1)CSCCN | C9H17N3S2
